US03966770
A mixture of 14.0 g. of 4'-hydroxy-3'-methylsulfonylmethylacetophenone, 9.3 g. of potassium carbonate, 7.8 ml. of benzyl chloride and a catalytic amount of sodium iodide in 250 ml. of acetone and 250 ml. of water is refluxed with stirring for 16 hours. The acetone is removed and the aqueous phase is extracted with chloroform, washed with water, dried and evaporated to yield an oil which is recrystallized in 2-propanol to give crystalline 4'-benzyloxy-3'methylsulfonylmethylacetophenone, m.p. 94°-97° C.

reactant | 4'-hydroxy-3'-methylsulfonylmethylacetophenone | OC1=C(C=C(C=C1)C(C)=O)CS(=O)(=O)C | C10H12O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 4'-benzyloxy-3'methylsulfonylmethylacetophenone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CS(=O)(=O)C | C17H18O4S
